US08309554B2
To a 0° C. solution of methyl-2-chloro-4-(bis-Boc-amino)-benzoate (491 mg) in THF (4 mL) was added lithium aluminum hydride (1.27 mL, 2M in THF), dropwise, the reaction mixture was stirred for 30 min and quenched with MeOH. The reaction mixture was diluted with EtOAc, the organic layer washed with saturated NH4Cl (1×), brine (1×), dried over Na2SO4 and volatiles removed. The residue was purified by column chromatography using 0-60% EtOAc/Hexanes to provide compound 2-chloro-4-(boc-amino)-benzylalcohol as a clear syrup (259 mg).

reactant | methyl-2-chloro-4-(bis-Boc-amino)-benzoate | 491 mg | COC(C1=C(C=C(C=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)Cl)=O | C18H24ClNO6
reactant | lithium aluminum hydride | 2M, 1.27 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-(boc-amino)-benzylalcohol | 259 mg | ClC1=C(CO)C=CC(=C1)NC(=O)OC(C)(C)C | C12H16ClNO3
